US09340546B2
1-methylpiperazine (298.5 mg, 330.6 μL, 2.980 mmol) in THF (5 mL) was added to a stirred solution of 2,4-dichloro-5-nitro-pyridine (500 mg, 2.591 mmol) and DIPEA (401.8 mg, 541.5 μL, 3.109 mmol) in THF (10 mL) at 0° C. under an atmosphere of nitrogen. The reaction was allowed to stir at ambient temperature for 1 hour then the solvent removed in vacuo. The residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 10% MeOH/DCM solutions) to give 1-(2-chloro-5-nitropyridin-4-yl)-4-methylpiperazine as a yellow solid (638 mg, 96% Yield). MS (ES+) 257.1.

reactant | 1-methylpiperazine | 2.980 mmol, 330.6 μL, 298.5 mg | CN1CCNCC1 | C5H12N2
reactant | 2,4-dichloro-5-nitro-pyridine | 2.591 mmol, 500 mg | ClC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | DIPEA | 3.109 mmol, 541.5 μL, 401.8 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-5-nitropyridin-4-yl)-4-methylpiperazine | 638 mg, 96% Yield | ClC1=NC=C(C(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C10H13ClN4O2
